US07838524B2
Methyl N-[(4-[3-tert-butyl-5-[({[4-(pyridin-4-yloxy)phenyl]amino}carbonyl)amino]-1H-pyrazol-1-yl]phenyl)acetyl]-L-serinate
The title compound was prepared in the same manner as described for N-[3-tert-butyl-1-(4-{2-[(3S)-3-hydroxypyrrolidin-1-yl]-2-oxoethyl}phenyl)-1H-pyrazol-5-yl]-N′-[4-(pyridin-4-yloxy)phenyl]urea, replacing (S)-3-pyrrolidinol with L-serine methyl ester hydrochloride. The desired product was purified by MPLC (EtOAc/hexane/MeOH) and obtained as a solid (150 mg) in 62% yield. A sample of this material was purified further by HPLC and the TFA salt isolated from HPLC was neutralized to provide the title compound. 1H-NMR (DMSO-d6) δ9.12 (s, 1H), 8.50 (d, J=7.9 Hz, 1H) 8.40 (m, 3H), 7.50-7.38 (m, 6H), 7.07 (d, J=8.7 Hz, 2H), 6.85 (m, 2H), 6.34 (s, 1H), 5.10 (t, J=5.4 Hz, 1H), 4.35 (m, 1H), 3.72 (m, 1H), 3.61 (m, 6H), 1.27 (s, 9H); MS LC-MS [M+H]+=587.2, RT=2.27 min.

reactant | N-[3-tert-butyl-1-(4-{2-[(3S)-3-hydroxypyrrolidin-1-yl]-2-oxoethyl}phenyl)-1H-pyrazol-5-yl]-N′-[4-(pyridin-4-yloxy)phenyl]urea | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1)C1=CC=C(C=C1)CC(=O)N1C[C@H](CC1)O | C31H34N6O4
reactant | L-serine methyl ester hydrochloride | Cl.COC([C@@H](N)CO)=O
product | Methyl N-[(4-[3-tert-butyl-5-[({[4-(pyridin-4-yloxy)phenyl]amino}carbonyl)amino]-1H-pyrazol-1-yl]phenyl)acetyl]-L-serinate | 62% yield | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1)C1=CC=C(C=C1)CC(=O)N[C@@H](CO)C(=O)OC | C31H34N6O6
